US07407957B2
(f) 4-[4-(4-Cyclohexanecarbonyl-piperazine-1-carbonyl)-pyridin-2-ylmethyl-2H-phthalazin-1-one (5)
To a stirred solution of 2-(4-oxo-3,4-dihydro-phthalazin-1-ylmethyl)-isonicotinic acid (iva) (0.25 g, 0.89 mol) in diemthylacetamide (2 mL) was added cyclohexyl-piperazin-1-yl-methanone (0.20 g, 1.0 mmol) followed by HBTU (0.38 g, 1.0 mmol) and diisopropyl ethyl amine (0.35 mL, 20.0 mmol) and stirred. The reaction mixture was then concentrated in vacuo and resulting oil subjected to flash chromatography eluent 9:1 EtOAc/MeOH. (rf of 0.3) The titled compound was isolated as a white solid. Single peak in LC-MS analysis, (0.18 g, 56%); m/z (LC-MS, ESP), RT=4.07 mins, (M+H)=460; 1H NMR (300 MHz) 12.57 (1H, S-NH), 8.56 (1H, d, J 5.1 Hz), 8.26 (1H, dd, J 1.5, 8.1 Hz), 7.95-7.80 (3H, m), 7.38 (1H, S), 7.25 (1H, d, J 5.7 Hz), 4.51 (2H, S), 3.56-3.17 (8H, m), 2.58 (1H, m), 1.71-1.61 (5H, m), 1.38-1.22 (5H, m).

reactant | 2-(4-oxo-3,4-dihydro-phthalazin-1-ylmethyl)-isonicotinic acid | 0.89 mol, 0.25 g | O=C1NN=C(C2=CC=CC=C12)CC=1C=C(C(=O)O)C=CN1 | C15H11N3O3
reactant | cyclohexyl-piperazin-1-yl-methanone | 1.0 mmol, 0.20 g | C1(CCCCC1)C(=O)N1CCNCC1 | C11H20N2O
reactant | HBTU | 1.0 mmol, 0.38 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropyl ethyl amine | 20.0 mmol, 0.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EtOAc MeOH | CCOC(=O)C.CO
product | 4-(4-Cyclohexanecarbonyl-piperazine-1-carbonyl)-pyridin-2-ylmethyl-2H-phthalazin-1-one | C1(CCCCC1)C(=O)N1CCN(CC1)C(=O)C1=NN(C(C2=CC=CC=C12)=O)CC1=NC=CC=C1 | C26H29N5O3
